US07253192B2
A] (4-Hydroxy-benzyl)-carbamic acid tert-butyl ester
A solution of 4.3 g (21 mmol) of 4-hydroxybenzylamine hydrobromide and 5.49 g (65 mmol) NaHCO3 in 17 ml dioxane and 4 ml of water was treated with 5.06 g (23 mmol) di-tert-butyl dicarbonate and stirred for 4 h at room temperature. The organic phase was extracted with water/dichloromethane (two times), dried (MgSO4), and evaporated to give 4.75 g of the title compound as a colorless oil.

reactant | 4-hydroxybenzylamine hydrobromide | 21 mmol, 4.3 g | Br.OC1=CC=C(CN)C=C1
reactant | NaHCO3 | 65 mmol, 5.49 g | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyl dicarbonate | 23 mmol, 5.06 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 17 ml | O1CCOCC1 | C4H8O2
solvent | water | 4 ml | O | H2O
product | (4-Hydroxy-benzyl)-carbamic acid tert-butyl ester | 4.75 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)O)=O | C12H17NO3
